* Tri-state PFD charge pump -- minimal transistor-level current-source/sink
* stage, authored for issue #1325 (Epic #705 Phase 2's PLL canary) per
* kb/entries/pfd-charge-pump-tri-state.json's own sizing_approach, since
* that entry had no `artifacts.netlist` (no runnable reference existed).
* The PFD's own D-flip-flop/AND-gate reset logic is standard-cell-portable
* digital logic (see that entry's pdk_portability note) and out of scope
* for `klt size`'s MOSFET gm/Id sizing -- only the UP/DOWN current-
* source/sink devices are modelled here, each mirrored 1:1 from an ideal
* reference current and held at the loop-filter's mid-rail control
* voltage (the standard current-mirror matching testbench: the loop
* filter's control node sits mid-rail at lock, the worst-case Vds point
* for UP/DOWN mirror-current matching per the entry's own sizing_approach).
* sky130 schematic-level netlist BODY -- no .lib/.control/.end (the
* reproduction test in tests/test_size.py supplies those, matching
* examples/design-pipeline/ota_5t.spice's convention).
.param vdd=1.8
.param icp=20u
.param vctrl=0.9

Vdd    vdd 0 DC {vdd}
* Loop-filter control node, held fixed at mid-rail for UP/DOWN branch
* characterization.
Vctrlp ctrl_up 0 DC {vctrl}
Vctrln ctrl_dn 0 DC {vctrl}
* Ideal reference currents setting the UP/DOWN mirrors' bias.
Iref   nbiasp 0   DC {icp}
Iref2  vdd nbiasn DC {icp}

* --- UP path: PMOS current source, mirrored 1:1 from the ideal reference ---
XMBP nbiasp nbiasp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=8 nf=1 mult=1
XMUP ctrl_up nbiasp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=8 nf=1 mult=1

* --- DOWN path: NMOS current sink, mirrored 1:1 from the ideal reference ---
XMBN nbiasn nbiasn 0 0 sky130_fd_pr__nfet_01v8 L=1 W=8 nf=1 mult=1
XMDN ctrl_dn nbiasn 0 0 sky130_fd_pr__nfet_01v8 L=1 W=8 nf=1 mult=1
